* Extracted by KLayout with SG13G2 LVS runset on : 02/04/2026 06:15

.SUBCKT pmos_array VD_ARRAY VB_ARRAY VS_ARRAY VG_ARRAY
M$1 VS_ARRAY VG_ARRAY VD_ARRAY \$6 sg13_lv_pmos L=0.13u W=1382.4u AS=523.104p
+ AD=523.056p PS=6974.08u PD=6973.76u
R$9217 \$6 VB_ARRAY ntap1 A=2628p P=5274u
.ENDS pmos_array
